US07728022B2
3-Phenyl-1-[4-(trifluoromethyl)phenyl]propan-1-amine
Hydroxylamine hydrochloride (2.1 g, 0.03 mol) was added to a solution of 3-phenyl-1-[4-(trifluoromethyl)phenyl]propan-1-one (Journal of the American Chemical Society 1994, 116(6), 2312-17, 2.8 g, 0.01 mol) in EtOH (30 ml). The solution was heated to reflux temperature for 18 hours. After cooling to RT, the solvent was evaporated under reduced pressure and the residue diluted with EtOAc (30 ml). The organic phase washed with water (3×20 ml), dried over Na2SO4 and concentrated. The crude reaction was then dissolved in EtOH (20 ml) and Raney Nickel (5 spoons) added. The reaction mixture was stirred for 2 days under a balloon of nitrogen and then filtered through a pad of celite. The filtrate was concentrated and purified by chromatography on silica gel eluting with 50% AcOEt/Hexane to afford the title compound (0.8 g, 28%); 1H NMR δ (ppm)(CDCl3, 360 MHz): 7.64 (2 H, d, J=7.7 Hz), 7.47 (2 H, d, J=7.7 Hz), 7.32 (2 H, m), 7.22-7.19 (3 H, m), 4.00 (1 H, t, J=6.7 Hz), 2.73-2.57 (2 H, m), 2.07-2.00 (2 H, m).

reactant | Hydroxylamine hydrochloride | 0.03 mol, 2.1 g | Cl.NO
reactant | 3-phenyl-1-[4-(trifluoromethyl)phenyl]propan-1-one | C1(=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | 3-Phenyl-1-[4-(trifluoromethyl)phenyl]propan-1-amine | 0.8 g, 28% | C1(=CC=CC=C1)CCC(N)C1=CC=C(C=C1)C(F)(F)F | C16H16F3N
